US07307084B2
18. 1-Azetidin-1-yl-1-(2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazol-5-yl)-methanone
To a suspension of 0.31 g (0.96 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid in dichloromethane (10 ml) were added 0.34 g (1.4 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) and the suspension was heated at 40° C. for 4 h. 102 mg (1.0 mmol) Azetidine were added and the mixture was stirred for 3 h. The reaction mixture was poured into water and the extracted with dichloromethane. The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (toluene/dioxane=1:5) and crystallized with diisopropyl ether to afford 212 mg (61%) of the title compound as a white solid. m.p. 246°-248° C.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 0.96 mmol, 0.31 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 1.4 mmol, 0.34 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Azetidine | 1.0 mmol, 102 mg | N1CCC1 | C3H7N
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Azetidin-1-yl-1-(2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazol-5-yl)-methanone | 212 mg, 61% | N1(CCC1)C(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C22H23N3O2
